US09085606B2
Preparation of (S)-ethyl 3-(2-aminoacetamido)-3-(5-bromo-3-(tert-butyl)-2-hydroxyphenyl)propanoate, Hydrochloride salt
4M HCl in 1,4-dioxane (3.0 mL) was added to a solution of a crude sample of (S)-ethyl 3-(5-bromo-3-(tert-butyl)-2-hydroxyphenyl)-3-(2-((tert-butoxycarbonyl)amino)acetamido)propanoate (0.922 g, 1.84 mmol) in 1,4-dioxane (3.0 mL) at 0° C. (ice-bath) and the reaction mixture was stirred at 0° C. for 30 min and then at room temperature for 30 min. The reaction mixture was then heated at 50° C. for 2.5 h under nitrogen atmosphere to give a yellow-orange suspension. The solvent was evaporated in-vacuo to afford a dirty yellow-orange foamy solid. Acetonitrile (25 mL) was added to the solid, stirred for 5 min to give a cream-yellow suspension and evaporated in vacuo to afford a dirty cream solid (0.935 g). LC/MS analysis of the product shows the desired product's mass: m/z 402 (79BrM+H) and m/z 404 (81BrM+H), Calcd for C17H25BrN2O4: 401.29.

reactant | HCl | 4M | Cl | ClH
reactant | (S)-ethyl 3-(5-bromo-3-(tert-butyl)-2-hydroxyphenyl)-3-(2-((tert-butoxycarbonyl)amino)acetamido)propanoate | 1.84 mmol, 0.922 g | BrC=1C=C(C(=C(C1)[C@H](CC(=O)OCC)NC(CNC(=O)OC(C)(C)C)=O)O)C(C)(C)C | C22H33BrN2O6
reactant | Acetonitrile | 25 mL | C(C)#N | C2H3N
solvent | 1,4-dioxane | 3.0 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 3.0 mL | O1CCOCC1 | C4H8O2
product | (S)-ethyl 3-(2-aminoacetamido)-3-(5-bromo-3-(tert-butyl)-2-hydroxyphenyl)propanoate, Hydrochloride salt | 0.935 g | Cl.NCC(=O)N[C@@H](CC(=O)OCC)C1=C(C(=CC(=C1)Br)C(C)(C)C)O | InChI=1S/C17H25BrN2O4.ClH/c1-5-24-15(22)8-13(20-14(21)9-19)11-6-10(18)7-12(16(11)23)17(2,3)4;/h6-7,13,23H,5,8-9,19H2,1-4H3,(H,20,21);1H/t13-;/m0./s1
